US07253286B2
4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxy-2,3-dimethylphenylamine
The title compound (840 mg) was obtained from 7-methoxy-4-chloroquinoline-6-carboxyamide (890 mg) and 4-nitro-2,3-dimethylphenol (940 mg), in the same manner as Production Example 7. Next, 6-carbamoyl-4-(2,3-dimethyl-4-nitrophenoxy)-7-methoxyquinoline (840 mg) was dissolved in tetrahydrofuran (25 ml) and methanol (25 ml), and the solution was subjected to catalytic reduction with palladium-carbon (840 mg) for 10 hours under a hydrogen atmosphere to obtain the title compound (639 mg).

reactant | 6-carbamoyl-4-(2,3-dimethyl-4-nitrophenoxy)-7-methoxyquinoline | 840 mg | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)[N+](=O)[O-])C)C | C19H17N3O5
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium-carbon | 840 mg | [C].[Pd]
product | 4-(6-Carbamoyl-7-methoxy-4-quinolyl)oxy-2,3-dimethylphenylamine | 639 mg | C(N)(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(C=C1)N)C)C | C19H19N3O3
